US04980352
A solution of 5.27 g (27.4 mmol) of 2,3-dihydro-6-hydroxy-3,3-dimethyl-5-benzofurancarboxaldehyde and 5.86 g (32.9 mmol) of N-bromosuccinimide in 135 ml of methylene chloride was stirred at ambient temperature for 3 h. Water (400 ml) was added. The organic phase was dried and evaporated. The residue was chromatographed on silica gel (150 g) using a gradient from 20:80 (v/v) ether:hexane to 40:60 (v/v) ether:hexane eluent. There was obtained 7.0 g (25.8 mmol, 94%) of 7-bromo-2,3-dihydro-6-hydroxy-3,3-dimethyl-5-benzofurancarboxaldehyde. A sample was crystallized from toluene: mp 152°-154° C.

reactant | 2,3-dihydro-6-hydroxy-3,3-dimethyl-5-benzofurancarboxaldehyde | 27.4 mmol, 5.27 g | OC1=CC2=C(C(CO2)(C)C)C=C1C=O | C11H12O3
reactant | N-bromosuccinimide | 32.9 mmol, 5.86 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Water | 400 ml | O | H2O
solvent | methylene chloride | 135 ml | C(Cl)Cl | CH2Cl2
product | 7-bromo-2,3-dihydro-6-hydroxy-3,3-dimethyl-5-benzofurancarboxaldehyde | 25.8 mmol, 7.0 g, 94% | BrC1=C(C(=CC=2C(COC21)(C)C)C=O)O | C11H11BrO3
